US08013010B2
3-(3-Thienyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 13, starting from 3-bromophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation VII, and 3-thiopheneboronic acid, the expected product is obtained in the form of white crystals with a yield of 26%.

reactant | 3-bromophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)Br)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H19BrO7S
reactant | 3-thiopheneboronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
product | 3-(3-Thienyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 26% | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)C2=CSC=C2)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C21H22O7S2
